### PR TITLE
[Merged by Bors] - feat: Generalize results around the Gaussian integrals to powers other than two

### PR DESCRIPTION
**Pull request by xroblot**
These are straight generalisations of results related to Gauss integrals to real positive powers other than 2. They will be useful for #8030 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Gaussian.lean [hunk 1]
```diff
@@ -47,21 +47,67 @@ open scoped Real Topology FourierTransform
...
 theorem rpow_mul_exp_neg_mul_sq_isLittleO_exp_neg {b : ℝ} (hb : 0 < b) (s : ℝ) :
     (fun x : ℝ => x ^ s * exp (-b * x ^ 2)) =o[atTop] fun x : ℝ => exp (-(1 / 2) * x) := by
-  apply ((isBigO_refl (fun x : ℝ => x ^ s) atTop).mul_isLittleO
-      (exp_neg_mul_sq_isLittleO_exp_neg hb)).trans
-  simpa only [mul_comm] using Gamma_integrand_isLittleO s
+  simp_rw [← rpow_two]
+  exact rpow_mul_exp_neg_mul_rpow_isLittleO_exp_neg s one_lt_two hb
 #align rpow_mul_exp_neg_mul_sq_is_o_exp_neg rpow_mul_exp_neg_mul_sq_isLittleO_exp_neg
 
+-- TODO. do integrableOn_rpow_mul_exp_neg_mul_rpow
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Gaussian.lean:81]: Could you do the todo? It shouldn't be much harder, given that you already have the previous lemmas.

Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/Gaussian.lean]: I did it using `integrableOn_rpow_mul_exp_neg_rpow` since otherwise I could not get the case `p = 1` using the lemma `rpow_mul_exp_neg_mul_rpow_isLittleO_exp_neg`. 

Note that this is not my domain of expertise and it is quite possible (probable?) that some proofs are not optimal.

**Comment by sgouezel** [comment]
bors r+
Thanks!
